US07429666B2
Step 1. 2-Ethoxy-5,6,7,8-tetrahydroquinoline
Following the procedure described in Example 1A, step 2, 5,6,7,8-tetrahydroquinolin-2 (1H)-one and EtI gave the title compound as a pale yellow oil.

reactant | 5,6,7,8-tetrahydroquinolin-2 (1H)-one | N1C(C=CC=2CCCCC12)=O | C9H11NO
reactant | EtI | C(C)I | C2H5I
product | 2-Ethoxy-5,6,7,8-tetrahydroquinoline | C(C)OC1=NC=2CCCCC2C=C1 | C11H15NO
